US07105567B2
By the reaction and treatment in the same manner as in Example 1 using [(4-dimethylaminophenyl)methyl](4-methylphenyl)amine (0.70 g) and 2,6-diisopropylphenyl isocyanate (0.69 mL) as starting materials, N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-methylphenyl)urea (0.41 g) was obtained. melting point: 124–125° C.

reactant | [(4-dimethylaminophenyl)methyl](4-methylphenyl)amine | 0.70 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C)C | C16H20N2
reactant | 2,6-diisopropylphenyl isocyanate | 0.69 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N′-(2,6-diisopropylphenyl)-N-[(4-dimethylaminophenyl)methyl]-N-(4-methylphenyl)urea | 0.41 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)NC(N(C1=CC=C(C=C1)C)CC1=CC=C(C=C1)N(C)C)=O | C29H37N3O
